US08648099B2
d) 5-(4-Chlorophenyl)-N-(4-(2-hydroxyethyl)piperidin-1-yl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxamide
The title compound was synthesized in analogy to Example 1 using 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid (CAN 1018782-82-5) and 4-[2-(t-butyl-dimethyl-silanyloxy)-ethyl]-piperidin-1-ylamine trifluoroacetate (1:1) as starting materials; the silyl protecting group was lost during reaction and work-up; LC-MS (UV peak area/ESI) 94.9%, 458.1448 (M+H)+.

reactant | 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)O | C14H9ClF3NO3
reactant | 4-[2-(t-butyl-dimethyl-silanyloxy)-ethyl]-piperidin-1-ylamine trifluoroacetate | FC(C(=O)O)(F)F.C(C)(C)(C)[Si](OCCC1CCN(CC1)N)(C)C
product | 5-(4-Chlorophenyl)-N-(4-(2-hydroxyethyl)piperidin-1-yl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxamide | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)NN1CCC(CC1)CCO | C21H23ClF3N3O3
